US04431808
solution of 3.4 g sodium hydroxide in 6 ml of water and then 14 g of 2,5-dichlorobenzaldehyde (H. Erdmann, Justus Liebigs Ann. Chem. 272, 155, 1893) are added to a solution of 10.8 g 2-fluorothiophenol (reference above) in 20 ml of hexamethylphosphortriamide. Then, the mixture is heated for 5.5 hours to 100° C. After cooling it is diluted with 150 ml of water and extracted with benzene. The extract is washed with a 5% sodium hydroxide solution and with water, dried with magnesium sulfate and evaporated. Crude 2-(2-fluorophenylthio) 5-chlorobenzaldehyde is obtained which is then recrystallized from 20 ml ethanol; 16.0 g, m.p. 85.5°-88° C. A further crystallization affords an analytically pure product, m.p. 87°-88° C.

reactant | sodium hydroxide | 3.4 g | [OH-].[Na+]
reactant | 2,5-dichlorobenzaldehyde | 14 g | ClC1=C(C=O)C=C(C=C1)Cl | C7H4Cl2O
reactant | 2-fluorothiophenol | 10.8 g | FC1=C(C=CC=C1)S | C6H5FS
solvent | water | 6 ml | O | H2O
solvent | water | 150 ml | O | H2O
product | 2-(2-fluorophenylthio) 5-chlorobenzaldehyde | FC1=C(C=CC=C1)SC1=C(C=O)C=C(C=C1)Cl | C13H8ClFOS
